US04728741
B: 3,5-Dichlorobenzylamine
The reaction of 3,5-dichlorobenzaldehyde methoxime, (17.4 g, 85.7 mmole) and 0.98M borane in tetrahydrofuran (86 ml) substantially as described in 1B above produced 10.5 g (70%) of the title compound as a light yellow oil.

reactant | 3,5-dichlorobenzaldehyde methoxime | 85.7 mmole, 17.4 g | ClC=1C=C(C=O)C=C(C1)Cl.C=1C(=CC=[N+](C1)C[N+]2=CC=C(C=C2)/C=N/O)/C=N/O.[Br-].[Br-]
reactant | borane | 0.98M | B | BH3
solvent | tetrahydrofuran | 86 ml | O1CCCC1 | C4H8O
product | 3,5-Dichlorobenzylamine | 10.5 g, 70% | ClC=1C=C(CN)C=C(C1)Cl | C7H7Cl2N
